US04588732
A solution of 5-[2-(p-hydroxyphenyl)ethen-1-yl]imidazo[1,5-a]pyridine (2.36 g) in 10 ml of dimethylformamide is added to a slurry of 0.5 g of sodium hydride in 30 ml of dry dimethylformamide at 0° under nitrogen. After warming to room temperature ethyl bromoacetate (1.67 g) is added and the reaction is heated to 60° for 5 hours. Water (200 ml) is added and the solution is extracted with ethyl acetate. The combined organic phases are washed with water, dried over sodium sulfate and evaporated to yield 5-[2-(p-[ethoxycarbonylmethoxy]phenyl)ethen-1-yl]imidazo[1,5-a]pyridine.

reactant | 5-[2-(p-hydroxyphenyl)ethen-1-yl]imidazo[1,5-a]pyridine | 2.36 g | OC1=CC=C(C=C1)C=CC1=CC=CC=2N1C=NC2 | C15H12N2O
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.67 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | 200 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-[2-(p-[ethoxycarbonylmethoxy]phenyl)ethen-1-yl]imidazo[1,5-a]pyridine | C(C)OC(=O)COC1=CC=C(C=C1)C=CC1=CC=CC=2N1C=NC2 | C19H18N2O3
